US05534529
N-[2-Ethyl-6-(3-oxo-6-phenyl-1-hexenyl)phenyl]-2-(9H-xanthen-9-yl)acetamide (Compound No. 1-1447)
49 mg (1.13 mmol) of sodium hydride (as a 55% w/w suspension in mineral oil) were washed twice, each time with hexane, and were suspended in 6 ml of dimethylformamide. 2 ml of a dimethylformamide solution containing 289 mg (0.97 mmol) of 5-diethoxyphosphoryl-1-(4-oxopentyl)benzene were added to the suspension, whilst ice-cooling. The reaction mixture was then immediately allowed to return to room temperature, after which it was stirred for 30 minutes. 300 mg (0.808 mmol) of N-(2-ethyl-6-formylphenyl)-2-(9H-xanthen-9-yl)acetamide were then added to the reaction mixture, once again whilst ice-cooling. The mixture was then stirred for 1 hour at the ice-cooling temperature and then for 3 hours at room temperature. At the end of this time, the reaction solution was poured into ice-water and extracted with diethyl ether. The organic extract was washed with water. The solvent was removed by distillation under reduced pressure, and the resulting residue was recrystallized from a mixture of methylene chloride and diethyl ether, to give 220 mg (yield 53%) of the title compound as crystals, melting at 168°-170° C.

reactant | sodium hydride | 1.13 mmol, 49 mg | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | 5-diethoxyphosphoryl-1-(4-oxopentyl)benzene | 0.97 mmol, 289 mg | C(C)OP(=O)(OCC)C=1C=CC=C(C1)CCCC(C)=O | C15H23O4P
reactant | N-(2-ethyl-6-formylphenyl)-2-(9H-xanthen-9-yl)acetamide | 0.808 mmol, 300 mg | C(C)C1=C(C(=CC=C1)C=O)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C24H21NO3
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-[2-Ethyl-6-(3-oxo-6-phenyl-1-hexenyl)phenyl]-2-(9H-xanthen-9-yl)acetamide | 220 mg, yield 53% | C(C)C1=C(C(=CC=C1)C=CC(CCCC1=CC=CC=C1)=O)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C35H33NO3
